US07282609B2
Five grams (22.8 mmol) of 2,2,2-trifluoro-N-(4-methoxyphenyl)acetamide, 7.02 g (45.6 mmol) of phosphorus oxychloride, 4.62 g (45.6 mmol) of triethylamine, and 25 ml of acetonitrile were introduced into a 100 ml flask and reacted for 22 hours while being refluxed (82° C.). After the reaction, the reaction solution was cooled to room temperature, 20 ml of ethyl acetate was added thereto, and the precipitate was then filtered off. The filtrate was subjected to solvent removal by evaporation, and the crude product thus obtained was purified by column chromatography (silica gel, ethyl acetate:hexane=3:7), resulting in 4.52 g of N-(4-methoxyphenyl)-2,2,2-trifluoroacetimidoyl chloride as a yellow liquid (yield: 83.4%).

reactant | 2,2,2-trifluoro-N-(4-methoxyphenyl)acetamide | 22.8 mmol, Five grams | FC(C(=O)NC1=CC=C(C=C1)OC)(F)F | C9H8F3NO2
reactant | phosphorus oxychloride | 45.6 mmol, 7.02 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 45.6 mmol, 4.62 g | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-methoxyphenyl)-2,2,2-trifluoroacetimidoyl chloride | 4.52 g, yield: 83.4% | COC1=CC=C(C=C1)N=C(C(F)(F)F)Cl | C9H7ClF3NO
